US08357679B2
D: (4-Amino-2-bromo-5-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone
4-Amino-2-bromo-5-fluorobenzoic acid (2.045 mmol, 0.479 g), 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol (2.045 mmol, 0.7 g) and triethylamine (6.14 mmol, 0.853 mL, 0.621 g) were combined and stirred at room temperature in dichloromethane (5 mL). 1-Propanephosphonic acid cyclic anhydride (3.07 mmol, 1.826 mL, 1.952 g; 50% solution in ethyl acetate) was added and the reaction stirred for 1 hour. The reaction mixture was diluted with dichloromethane and saturated sodium hydrogen carbonate solution and the layers separated. The organic layer was dried over magnesium sulfate and concentrated under vacuum to afford the title compound (660 mg). MS (ESI) m/z 558.5 [M+H]+

reactant | 4-Amino-2-bromo-5-fluorobenzoic acid | 2.045 mmol, 0.479 g | NC1=CC(=C(C(=O)O)C=C1F)Br | C7H5BrFNO2
reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol | 2.045 mmol, 0.7 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCNCC1)(F)F | C14H16F6N2O
reactant | triethylamine | 6.14 mmol, 0.853 mL, 0.621 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 3.07 mmol, 1.826 mL, 1.952 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | (4-Amino-2-bromo-5-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 660 mg | NC1=CC(=C(C=C1F)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)Br | C21H19BrF7N3O2
